US06852731B2
N-(4-Chlorobenzyl)-3-(hydroxymethyl)-2-{[(2-hydroxy-2-pyrazin-2-ylethyl)(methyl)amino]methyl}-4-methyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxamide
A solution of 144 mg of N-(4-chlorobenzyl)-2-{[(2-hydroxy-2-pyrazin-2-ylethyl)(methyl)amino]methyl}-4-methyl-7-oxo-3-{[2-(trimethylsilyl)ethoxy]methyl}-4,7-dihydrothieno[3,2-b]pyridine-6-carboxamide in 3 mL of 75% TFA in CH2Cl2 is stirred at room temperature for 3 h, then diluted with CHCl3 and added to stirred aq. NaHCO3. The aqueous phase is adjusted to pH 10-11 with added NaOH, then extracted with 6 portions of CHCl3. The combined organic phase is dried (Na2SO4) and concentrated under reduced pressure. Flash chromatography of the residue on silica gel (compound pre-loaded onto silica gel using CHCl3-MeOH) using 5-8% MeOH in CH2Cl2 provides 114 mg of the title compound as a white solid. Trituration with boiling acetonitrile affords white solid.

reactant | N-(4-chlorobenzyl)-2-{[(2-hydroxy-2-pyrazin-2-ylethyl)(methyl)amino]methyl}-4-methyl-7-oxo-3-{[2-(trimethylsilyl)ethoxy]methyl}-4,7-dihydrothieno[3,2-b]pyridine-6-carboxamide | 144 mg | ClC1=CC=C(CNC(=O)C=2C(C3=C(N(C2)C)C(=C(S3)CN(C)CC(C3=NC=CN=C3)O)COCC[Si](C)(C)C)=O)C=C1 | C30H38ClN5O4SSi
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | NaOH | [OH-].[Na+]
solvent | TFA | 3 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | N-(4-Chlorobenzyl)-3-(hydroxymethyl)-2-{[(2-hydroxy-2-pyrazin-2-ylethyl)(methyl)amino]methyl}-4-methyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxamide | 114 mg | ClC1=CC=C(CNC(=O)C=2C(C3=C(N(C2)C)C(=C(S3)CN(C)CC(C3=NC=CN=C3)O)CO)=O)C=C1 | C25H26ClN5O4S
